US08048909B2
(5-Phenyl-1-{[4-(trifluoromethoxy)phenyl]sulfonyl}-1H-pyrrol-3-yl)methanol
A solution (30 mL) of ethyl 5-phenyl-1-{[4-(trifluoromethoxy)phenyl]sulfonyl}-1H-pyrrole-3-carboxylate (1.33 g) in tetrahydrofuran was cooled to −78° C., a 1.5 mol/L solution (8.0 mL) of diisobutylaluminum hydride in toluene was added dropwise, and the mixture was further stirred at −78° C. for 3 hr. 1 mol/L hydrochloric acid (20 mL) was added to the reaction mixture, and the mixture was diluted with ethyl acetate. Insoluble material was filtered through celite, and the filtrate was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=3:2) to give the title compound as an oil (yield 0.71 g, 59%).

reactant | ethyl 5-phenyl-1-{[4-(trifluoromethoxy)phenyl]sulfonyl}-1H-pyrrole-3-carboxylate | 30 mL, 1.33 g | C1(=CC=CC=C1)C1=CC(=CN1S(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F)C(=O)OCC | C20H16F3NO5S
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrochloric acid | 1 mol/L, 20 mL | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (5-Phenyl-1-{[4-(trifluoromethoxy)phenyl]sulfonyl}-1H-pyrrol-3-yl)methanol | yield 0.71 g, 59% | C1(=CC=CC=C1)C1=CC(=CN1S(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F)CO | C18H14F3NO4S
